US06225305B1
By a method described above for the preparation of N2-(tert-butoxycarbonyl)-N5-(iminomethoxymethyl)-L-ornithine tert-butyl ester hydrochloride, 1.05 g (3.35 mmol) of N2-(tert-butoxycarbonyl)-N5-cyano-L-ornithine tert-butyl ester produced 0.95 g (75%) N2-(tert-butoxycarbonyl)-N5-(ethoxyiminomethyl)-L-ornithine tert-butyl ester hydrochloride (TLC, silica gel, methanol:dichloromethane/1:4, Rf=0.61) and 1.195 g (3.2 mmol) of N2-tert-butoxycarbonyl)-N5-cyano-L-ornithine tert-butyl ester produces 0.63 g (63%) N2-(tert-butoxycarbonyl)-N5-(iminoisopropoxymethyl)-L-ornithine tert-butyl ester hydrochloride (TLC, silica gel, methanol:dichloro methane/1:4, Rf=0.53). Mass Spectrum (CI) 360 (MH+, 100%).

reactant | N2-(tert-butoxycarbonyl)-N5-(iminomethoxymethyl)-L-ornithine tert-butyl ester hydrochloride | Cl.C(C)(C)(C)OC([C@@H](NC(=O)OC(C)(C)C)CCCNCOC=N)=O
reactant | N2-(tert-butoxycarbonyl)-N5-cyano-L-ornithine tert-butyl ester | 3.35 mmol, 1.05 g | C(C)(C)(C)OC([C@@H](NC(=O)OC(C)(C)C)CCCNC#N)=O | C15H27N3O4
reactant | N5-cyano-L-ornithine tert-butyl ester | C(C)(C)(C)OC([C@@H](N)CCCNC#N)=O | C10H19N3O2
product | N2-(tert-butoxycarbonyl)-N5-(ethoxyiminomethyl)-L-ornithine tert-butyl ester hydrochloride | 0.95 g, 75% | Cl.C(C)(C)(C)OC([C@@H](NC(=O)OC(C)(C)C)CCCNC=NOCC)=O | InChI=1S/C17H33N3O5.ClH/c1-8-23-19-12-18-11-9-10-13(14(21)24-16(2,3)4)20-15(22)25-17(5,6)7;/h12-13H,8-11H2,1-7H3,(H,18,19)(H,20,22);1H/t13-;/m0./s1
